US07153854B2
To a solution of 3-[(1-amino-5-ethyl-1H-pyrrol-2-yl)carbonyl]benzonitrile (200 mg) in toluene (6 mL) was added 2,4-pentanedione (837 mg) and p-toluenesulfonic acid monohydrate (32 mg) at ambient temperature. The reaction mixture was refluxed for 1 hour. The residue was purified by flash silica gel chromatography (silica gel, 80 mL) eluted with hexane-ethyl acetate=10-1 to give 3-(3-acetyl-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-4-yl)benzonitrile (63 mg, 24.8%) as an yellow solid.

reactant | 3-[(1-amino-5-ethyl-1H-pyrrol-2-yl)carbonyl]benzonitrile | 200 mg | NN1C(=CC=C1CC)C(=O)C=1C=C(C#N)C=CC1 | C14H13N3O
reactant | 2,4-pentanedione | 837 mg | CC(CC(C)=O)=O | C5H8O2
reactant | p-toluenesulfonic acid monohydrate | 32 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(3-acetyl-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-4-yl)benzonitrile | 63 mg, 24.8% | C(C)(=O)C1=C(C=2N(N=C1C)C(=CC2)CC)C=2C=C(C#N)C=CC2 | C19H17N3O
